US07618961B2
Ethyl [2-({[3-(trifluoromethyl)phenyl]sulfonyl}amino)-1,3-thiazol-4-yl]acetate
The title compound was prepared from ethyl 2-amino-4-thiazolylacetate and 3-trifluoromethylbenzenesulfonyl chloride according to METHOD A, giving 0.26 g (62%) of an orange solid after recrystallization from acetone/ether/petroleum ether: mp 145° C.; MS (Ionspray, [M+H]+) m/z 395; Anal. Calcd (found) for C14H13F3N2O4S2: C, 42.6 (42.8)%, H, 3.3 (2.9)%, N, 7.1 (6.9)%

reactant | ethyl 2-amino-4-thiazolylacetate | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | 3-trifluoromethylbenzenesulfonyl chloride | FC(C=1C=C(C=CC1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
product | Ethyl [2-({[3-(trifluoromethyl)phenyl]sulfonyl}amino)-1,3-thiazol-4-yl]acetate | FC(C=1C=C(C=CC1)S(=O)(=O)NC=1SC=C(N1)CC(=O)OCC)(F)F | C14H13F3N2O4S2
